US06326369B1
2-(2,3-Dimethoxy-1,4-dioxo-4,5,6,7,8,9-hexahydro-1H-benzo[a]cyclohepten-7-yl)acetic acid
To a mixture of 2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)acetic acid (800 mg), 2,6-pyridinedicarboxylic acid (1.24 g), THF (16 ml), and water (8 ml) was dropwise added a solution of CAN (5.42 g) in water (8 ml) with cooling with ice. After the reaction mixture was stirred for 15 min, water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with, 1N hydrochloric acid, water, and saturated aqueous sodium chloride, and dried. The solvent was removed in vacuo. The residue was recrystallized from ethyl acetate to yield the entitled compound (450 mg) as crystals.

reactant | 2-(1,2,3,4-tetramethoxy-6,7,8,9-tetrahydro-5H-benzo[a]cyclohepten-7-yl)acetic acid | 800 mg | COC1=C(C(=C(C2=C1CCC(CC2)CC(=O)O)OC)OC)OC | C17H24O6
reactant | 2,6-pyridinedicarboxylic acid | 1.24 g | N1=C(C=CC=C1C(=O)O)C(=O)O | C7H5NO4
reactant | THF | 16 ml | C1CCOC1 | C4H8O
reactant | CAN | 5.42 g | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
solvent | water | 8 ml | O | H2O
solvent | water | 8 ml | O | H2O
product | 2-(2,3-Dimethoxy-1,4-dioxo-4,5,6,7,8,9-hexahydro-1H-benzo[a]cyclohepten-7-yl)acetic acid | 450 mg | COC1=C(C(C2=C(CCC(CC2)CC(=O)O)C1=O)=O)OC | C15H18O6
